US05891916
Ethyl 7-cyano-7,7-bis(4-hydroxyphenyl)heptanoate
To a solution of ethyl 7-cyano-7,7-bis(4-methoxyphenyl)heptanoate (2.0 g, 5 mmol.) in dichloromethane (20 ml) was added dropwise a solution of boron tribromide (5.07 g, 20 mmol.) in dichloromethane (15 ml) while stirring at -70° C. The reaction mixture was warmed up to 5° C. taking 2 hours, to which was added ice-water, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous saline solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was subjected to a silica gel column chromatography, eluting with hexane--ethyl acetate (2:1), to afford the title compound (1.7 g).

reactant | ethyl 7-cyano-7,7-bis(4-methoxyphenyl)heptanoate | 5 mmol, 2.0 g | C(#N)C(CCCCCC(=O)OCC)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C24H29NO4
reactant | boron tribromide | 20 mmol, 5.07 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | Ethyl 7-cyano-7,7-bis(4-hydroxyphenyl)heptanoate | 1.7 g | C(#N)C(CCCCCC(=O)OCC)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C22H25NO4
